US05380724
1-(1-Adamantyl)-4-(4-chloro-3-oxo-2,3-dihydro-5-pyridazinyl)piperazine
A mixture of 1-(1-adamantyl)piperazine (2.2 g, 10 mmol), triethylamine (1.36 ml, 10 mmol) and 4,5-dichloro-3-oxo-2,3-dihydropyridazine (1.65 g, 10 mmol) in ethanol (25 ml) was heated under reflux for 5 hours. After cooling the precipitated solids were collected, washed with ethanol and dried to afford 2.57 g of the title compound, yield: 73.6%, mp. 292°-294° C.

reactant | 1-(1-adamantyl)piperazine | 10 mmol, 2.2 g | C12(CC3CC(CC(C1)C3)C2)N2CCNCC2 | C14H24N2
reactant | triethylamine | 10 mmol, 1.36 ml | C(C)N(CC)CC | C6H15N
reactant | 4,5-dichloro-3-oxo-2,3-dihydropyridazine | 10 mmol, 1.65 g | ClC=1C(NN=CC1Cl)=O | C4H2Cl2N2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(1-Adamantyl)-4-(4-chloro-3-oxo-2,3-dihydro-5-pyridazinyl)piperazine | 2.57 g, yield: 73.6% | C12(CC3CC(CC(C1)C3)C2)N2CCN(CC2)C2=C(C(NN=C2)=O)Cl | C18H25ClN4O
